* File: or2_dom.pex.netlist.pex
* Created: Thu Mar  3 21:13:15 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OR2_DOM%CLK 3 7 25
c1 25 0 0.06318f
c2 18 0 0.0258f
c3 12 0 0.06903f
c4 7 0 0.0472983f
c5 3 0 0.0679383f
r6 18 22 6.88245
r7 18 21 6.88502
r8 14 18 9.6
r9 12 25 8.58
r10 12 14 4.29
r11 7 22 86.625
r12 3 21 125.125
.ends

.subckt PM_OR2_DOM%B 3 22
c1 22 0 0.0729f
c2 18 0 0.0301f
c3 8 0 0.07965f
c4 3 0 0.0369783f
r5 14 18 5.39
r6 10 14 9.6
r7 8 22 8.58
r8 8 10 4.29
r9 1 18 3.88059
r10 1 3 55.825
.ends

.subckt PM_OR2_DOM%A 3 22
c1 22 0 0.0729f
c2 14 0 0.0301f
c3 8 0 0.07965f
c4 3 0 0.0369783f
r5 14 16 5.39
r6 10 14 9.6
r7 8 22 8.58
r8 8 10 4.29
r9 1 16 3.88059
r10 1 3 55.825
.ends

.subckt PM_OR2_DOM%Y 3 5 8 17 59
c4 59 0 0.05589f
c5 51 0 0.0301f
c6 47 0 0.0130175f
c7 45 0 0.00775f
c8 42 0 0.00806f
c9 37 0 0.0260388f
c10 32 0 0.0353388f
c11 20 0 0.0242217f
c12 17 0 0.394455f
c13 14 0 0.061065f
c14 13 0 0.07965f
c15 3 0 0.0472983f
r16 45 48 0.0434143
r17 45 47 0.0434463
r18 40 42 0.05
r19 38 55 1.31868
r20 37 38 10.4
r21 35 42 0.0046983
r22 35 37 0.37998
r23 32 48 0.53002
r24 32 33 10.8
r25 28 40 0.0046983
r26 28 47 0.21
r27 26 51 5.39
r28 22 26 9.6
r29 17 20 0.039111
r30 14 59 8.58
r31 14 45 4.29
r32 14 20 0.07875
r33 13 22 4.29
r34 13 17 0.74375
r35 7 55 2.01556
r36 7 8 8.8
r37 6 33 2.25379
r38 5 33 2.00432
r39 5 6 4.60915
r40 1 51 3.88059
r41 1 3 86.625
.ends

.subckt PM_OR2_DOM%5 3 7 18 26 28 32 44 45 47 48
c10 42 0 0.0301f
c11 35 0 0.05841f
c12 32 0 0.0531f
c13 28 0 0.00992124f
c14 27 0 0.0247975f
c15 26 0 0.0199931f
c16 22 0 0.0328588f
c17 19 0 0.00496f
c18 18 0 0.00867752f
c19 15 0 0.0111588f
c20 7 0 0.0662183f
c21 3 0 0.0662183f
r22 38 42 5.39
r23 35 38 9.6
r24 29 32 0.072
r25 28 32 0.0434303
r26 27 35 0.0434303
r27 27 28 0.4
r28 25 29 0.0134198
r29 25 26 0.43
r30 23 47 3.3
r31 23 48 3.3
r32 22 23 10.4
r33 20 29 0.0134198
r34 20 22 0.48998
r35 18 26 0.0446983
r36 18 19 0.12
r37 16 44 6.02576
r38 16 45 6.02576
r39 15 16 10.8
r40 13 19 0.0446983
r41 13 15 0.14
r42 5 42 3.88059
r43 5 7 115.5
r44 1 42 3.88059
r45 1 3 125.125
.ends

.subckt PM_OR2_DOM%6 6 13 14 16
c2 10 0 0.00991876f
c3 7 0 0.00496f
c4 6 0 0.0247975f
c5 3 0 0.00991876f
r6 11 16 3.69644
r7 10 11 10.4
r8 8 10 0.12002
r9 6 8 0.0446983
r10 6 7 0.32
r11 4 13 3.3
r12 4 14 3.3
r13 3 4 10.4
r14 1 7 0.0446983
r15 1 3 0.12002
.ends

.subckt PM_OR2_DOM%GND 1 2 6 8 11 14 29 32 60
c8 37 0 0.00867876f
c9 32 0 0.00619876f
c10 30 0 0.00496f
c11 26 0 0.02232f
c12 25 0 0.102915f
c13 23 0 0.0483575f
c14 14 0 0.0632375f
c15 8 0 0.0481566f
c16 4 0 0.0343966f
c17 3 0 0.0215f
c18 2 0 0.0154766f
r19 38 64 1.31868
r20 37 38 10.4
r21 32 33 9.6
r22 30 32 0.19
r23 26 47 0.01999
r24 25 29 0.125
r25 24 60 3.69552
r26 23 24 10.4
r27 21 30 0.0446983
r28 21 23 0.49998
r29 14 25 0.0184246
r30 14 40 0.0184246
r31 14 47 0.025
r32 14 47 0.031483
r33 14 40 0.1075
r34 14 37 0.10002
r35 14 29 0.0825
r36 14 26 0.2075
r37 14 23 0.28002
r38 12 64 2.01556
r39 11 12 8.8
r40 7 8 107.8
r41 4 8 4.81186
r42 4 6 5.775
r43 3 33 6.71385
r44 2 7 4.30221
r45 2 3 26.95
r46 1 14 10.8
r47 1 47 10.8
.ends

.subckt PM_OR2_DOM%VDD 1 2 3 9 34 56 58
c1 38 0 0.0173588f
c2 31 0 0.039675f
c3 28 0 0.00991876f
c4 24 0 0.02232f
c5 23 0 0.059515f
c6 20 0 0.00991876f
c7 9 0 0.0669575f
r8 38 39 10.8
r9 32 34 0.01
r10 29 58 5.93359
r11 28 29 10.8
r12 24 48 0.01999
r13 21 56 5.93228
r14 20 21 10.8
r15 9 31 0.0184246
r16 9 41 0.0184246
r17 9 23 0.0184246
r18 9 32 0.0184246
r19 9 48 0.025
r20 9 48 0.031483
r21 9 41 0.095
r22 9 38 0.23998
r23 9 31 0.08
r24 9 34 0.07
r25 9 28 0.12
r26 9 23 0.12
r27 9 24 0.12
r28 9 20 0.12
r29 4 39 2.25379
r30 3 39 2.00432
r31 3 4 4.60915
r32 2 9 10.4
r33 1 9 10.4
r34 1 48 10.4
.ends

.subckt PM_OR2_DOM%9 1 2
r0 1 2 7.5
.ends

