* File: or4_dom.pex.netlist.pex
* Created: Fri Mar  4 19:05:14 2022
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OR4_DOM%CLK 3 7 25
c1 25 0 0.06318f
c2 18 0 0.0258f
c3 12 0 0.06903f
c4 7 0 0.0472983f
c5 3 0 0.0679383f
r6 18 22 6.88245
r7 18 21 6.88502
r8 14 18 9.6
r9 12 25 8.58
r10 12 14 4.29
r11 7 22 86.625
r12 3 21 125.125
.ends

.subckt PM_OR4_DOM%B 3 22
c1 22 0 0.0729f
c2 18 0 0.0301f
c3 8 0 0.07965f
c4 3 0 0.0369783f
r5 14 18 5.39
r6 10 14 9.6
r7 8 22 8.58
r8 8 10 4.29
r9 1 18 3.88059
r10 1 3 55.825
.ends

.subckt PM_OR4_DOM%A 3 22
c1 22 0 0.0729f
c2 14 0 0.0301f
c3 8 0 0.07965f
c4 3 0 0.0369783f
r5 14 16 5.39
r6 10 14 9.6
r7 8 22 8.58
r8 8 10 4.29
r9 1 16 3.88059
r10 1 3 55.825
.ends

.subckt PM_OR4_DOM%C 3 22
c2 22 0 0.0729f
c3 14 0 0.0301f
c4 8 0 0.07965f
c5 3 0 0.0679383f
r6 14 16 5.39
r7 10 14 9.6
r8 8 22 8.58
r9 8 10 4.29
r10 1 16 3.88059
r11 1 3 125.125
.ends

.subckt PM_OR4_DOM%D 3 22
c1 22 0 0.0729f
c2 14 0 0.0301f
c3 8 0 0.07965f
c4 3 0 0.0369783f
r5 14 16 5.39
r6 10 14 9.6
r7 8 22 8.58
r8 8 10 4.29
r9 1 16 3.88059
r10 1 3 55.825
.ends

.subckt PM_OR4_DOM%Y 3 5 8 17 21 63
c4 63 0 0.05589f
c5 55 0 0.0301f
c6 51 0 0.0130175f
c7 49 0 0.00775f
c8 46 0 0.00806f
c9 41 0 0.0260388f
c10 36 0 0.0353388f
c11 24 0 0.0699942f
c12 22 0 0.04488f
c13 21 0 0.495424f
c14 20 0 0.0504676f
c15 17 0 0.123409f
c16 14 0 0.061065f
c17 13 0 0.07965f
c18 3 0 0.0472983f
r19 49 52 0.0434143
r20 49 51 0.0434463
r21 44 46 0.05
r22 42 59 1.31868
r23 41 42 10.4
r24 39 46 0.0046983
r25 39 41 0.37998
r26 36 52 0.53002
r27 36 37 10.8
r28 32 44 0.0046983
r29 32 51 0.21
r30 30 55 5.39
r31 26 30 9.6
r32 21 24 0.039111
r33 21 22 0.77875
r34 20 22 0.039111
r35 19 20 0.07875
r36 17 19 0.039111
r37 14 63 8.58
r38 14 49 4.29
r39 14 24 0.2275
r40 13 26 4.29
r41 13 17 0.245
r42 7 59 2.01556
r43 7 8 8.8
r44 6 37 2.25379
r45 5 37 2.00432
r46 5 6 4.60915
r47 1 55 3.88059
r48 1 3 86.625
.ends

.subckt PM_OR4_DOM%7 3 7 18 26 27 36 51 52 54 55 57 58
c12 49 0 0.0301f
c13 42 0 0.05841f
c14 39 0 0.06372f
c15 36 0 0.00217093f
c16 35 0 0.01767f
c17 34 0 0.0198375f
c18 31 0 0.0334788f
c19 27 0 0.0164288f
c20 26 0 0.0204581f
c21 22 0 0.0334788f
c22 19 0 0.00496f
c23 18 0 0.00867752f
c24 15 0 0.0111588f
c25 7 0 0.0662183f
c26 3 0 0.0662183f
r27 45 49 5.39
r28 42 45 9.6
r29 35 39 0.0463876
r30 34 42 0.0434303
r31 34 35 0.32
r32 32 57 3.3
r33 32 58 3.3
r34 31 32 10.4
r35 29 39 0.155109
r36 29 31 0.49998
r37 28 36 0.00880368
r38 27 29 0.0372635
r39 27 28 0.32
r40 25 36 0.0338756
r41 25 26 0.44
r42 23 54 3.3
r43 23 55 3.3
r44 22 23 10.4
r45 20 36 0.0338756
r46 20 22 0.49998
r47 18 26 0.0446983
r48 18 19 0.12
r49 16 51 6.02576
r50 16 52 6.02576
r51 15 16 10.8
r52 13 19 0.0446983
r53 13 15 0.14
r54 5 49 3.88059
r55 5 7 115.5
r56 1 49 3.88059
r57 1 3 125.125
.ends

.subckt PM_OR4_DOM%8 6 13 21 22 24 25 27
c4 20 0 0.00496f
c5 17 0 0.00991876f
c6 13 0 0.0247975f
c7 10 0 0.00991876f
c8 7 0 0.00496f
c9 6 0 0.0198375f
c10 3 0 0.00991876f
r11 18 27 3.69644
r12 17 18 10.4
r13 15 17 0.12002
r14 14 20 0.0338756
r15 13 15 0.0446983
r16 13 14 0.32
r17 11 24 3.3
r18 11 25 3.3
r19 10 11 10.4
r20 8 20 0.00880368
r21 8 10 0.12002
r22 6 20 0.0338756
r23 6 7 0.32
r24 4 21 3.3
r25 4 22 3.3
r26 3 4 10.4
r27 1 7 0.0446983
r28 1 3 0.12002
.ends

.subckt PM_OR4_DOM%GND 1 2 6 8 11 14 29 32 60
c9 37 0 0.00867876f
c10 32 0 0.00619876f
c11 30 0 0.00496f
c12 26 0 0.02232f
c13 25 0 0.152515f
c14 23 0 0.0483575f
c15 14 0 0.0632375f
c16 8 0 0.0481566f
c17 4 0 0.0343966f
c18 3 0 0.0215f
c19 2 0 0.0154766f
r20 38 64 1.31868
r21 37 38 10.4
r22 32 33 9.6
r23 30 32 0.19
r24 26 47 0.01999
r25 25 29 0.225
r26 24 60 3.69552
r27 23 24 10.4
r28 21 30 0.0446983
r29 21 23 0.49998
r30 14 25 0.0184246
r31 14 40 0.0184246
r32 14 47 0.025
r33 14 47 0.031483
r34 14 40 0.1075
r35 14 37 0.10002
r36 14 29 0.0825
r37 14 26 0.3075
r38 14 23 0.28002
r39 12 64 2.01556
r40 11 12 8.8
r41 7 8 107.8
r42 4 8 4.81186
r43 4 6 5.775
r44 3 33 6.71385
r45 2 7 4.30221
r46 2 3 26.95
r47 1 14 10.8
r48 1 47 10.8
.ends

.subckt PM_OR4_DOM%VDD 1 2 3 9 34 56 58
c1 38 0 0.0173588f
c2 31 0 0.089275f
c3 28 0 0.00991876f
c4 24 0 0.02232f
c5 23 0 0.059515f
c6 20 0 0.00991876f
c7 9 0 0.0669575f
r8 38 39 10.8
r9 32 34 0.11
r10 29 58 5.93359
r11 28 29 10.8
r12 24 48 0.01999
r13 21 56 5.93228
r14 20 21 10.8
r15 9 31 0.0184246
r16 9 41 0.0184246
r17 9 23 0.0184246
r18 9 32 0.0184246
r19 9 48 0.025
r20 9 48 0.031483
r21 9 41 0.095
r22 9 38 0.23998
r23 9 31 0.18
r24 9 34 0.07
r25 9 28 0.12
r26 9 23 0.12
r27 9 24 0.12
r28 9 20 0.12
r29 4 39 2.25379
r30 3 39 2.00432
r31 3 4 4.60915
r32 2 9 10.4
r33 1 9 10.4
r34 1 48 10.4
.ends

.subckt PM_OR4_DOM%11 1 2
r0 1 2 7.5
.ends

